US04801616
5-(3-Methoxy-4-[1-(2-methoxyphenyl)ethenyl]2-propylphenoxy)pentanenitrile
To a suspension of 0.56 g of methyltriphenylphosphonium bromide in 10 ml of dry tetrahydrofuran were added 0.88 ml of a 1.6 molar n-butyllithium solution in hexane. After stirring for 3 hours under a nitrogen atmosphere, 0.5 g of 5-[3-methoxy-4-(2-methoxybenzoyl)-2-propylphenoxy]pentanenitrile were added in 5 ml of tetrahydrofuran. The reaction was stirred for 40 hours at 25° C. and then at 65° C. for 24 hours. After cooling to room temperature, the reaction mixture was filtered and the filtrate was evaporated to dryness. The residue was purified by preparative thin layer chromatography using a solvent system of 10% ethyl acetate in hexane. The appropriate band was isolated, extracted with ethyl acetate, dried over sodium sulfate, and evaporated in vacuo providing 50 mg of the desired title product as an oil.

reactant | n-butyllithium | 1.6 molar | C(CCC)[Li]
reactant | 5-[3-methoxy-4-(2-methoxybenzoyl)-2-propylphenoxy]pentanenitrile | 0.5 g | COC=1C(=C(OCCCCC#N)C=CC1C(C1=C(C=CC=C1)OC)=O)CCC | C23H27NO4
catalyst | methyltriphenylphosphonium bromide | 0.56 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-(3-Methoxy-4-[1-(2-methoxyphenyl)ethenyl]2-propylphenoxy)pentanenitrile | 50 mg | COC=1C(=C(OCCCCC#N)C=CC1C(=C)C1=C(C=CC=C1)OC)CCC | C24H29NO3
